US08349880B2
N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(2,2,2-trifluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (2.11 g, 3.92 mmol), sodium iodide (2.94 g, 19.6 mmol), and diisoproplylethylamine (0.685 mL, 3.92 mmol) in acetone (30 mL) was heated in a sealed vessel at 100° C. for 12 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (50% EtOAc/chloroform) to afford 770 mg (38% yield) of the titled compound as an off-white solid. This material was recrystallized from EtOH (20 mL) to afford 424 mg (22% yield) of the titled compound as a crystalline white solid. LC-MS (M+H)+ 502.5. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.96 (s, 1 H), 7.67 (dd, J=12.8, 2.4 Hz, 1H), 7.24 (t, J=8.5 Hz, 1 H), 7.13 (d, J=8.9 Hz, 2 H), 7.02 (dd, J=9.2, 2.1 Hz, 1 H), 7.00 (s, 1 H), 6.93-6.98 (m, 2H), 4.36 (q, J=8.2 Hz, 2 H), 4.29 (dd, J=8.5, 2.1 Hz, 1 H), 4.22-4.27 (m, 2 H), 2.40 (s, 3 H), 2.17-2.30 (m, 1 H), 2.04-2.13 (m, 1 H), 1.82-2.02 (m, 4 H).

reactant | 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 3.92 mmol, 2.11 g | ClCCCCC(C1=CC=C(C=C1)OCC(F)(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=CN=C1C)F | C24H24ClF4N7O
reactant | sodium iodide | 19.6 mmol, 2.94 g | [I-].[Na+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(2,2,2-trifluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 770 mg, 38% yield | FC=1C=C(C=CC1N1N=CN=C1C)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)OCC(F)(F)F)=N1 | C24H23F4N7O
